US08013117B2
D-Leu-Leu-Arg(Mtr)-Pro-NHEt (SEQ ID NO: 3)
According to general procedure for BOC-cleavage, 500 mg crude Boc-D-Leu-Leu-Arg(Mtr)-Pro-NHEt was treated with 2 ml formic acid yielding 350 mg crude D-Leu-Leu-Arg (Mtr)-Pro-NHEt (yield based on HPLC: 80%).

reactant | Boc-D-Leu-Leu-Arg(Mtr)-Pro-NHEt | 500 mg | N([C@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OC(C)(C)C | C40H68N8O9S
solvent | formic acid | 2 ml, 350 mg | C(=O)O | CH2O2
product | D-Leu-Leu-Arg(Mtr)-Pro-NHEt | N[C@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)N1[C@H](C(=O)NCC)CCC1 | C35H60N8O7S
